US04115398
The process for preparing this compound and its physical properties will be shown below. A mixture of 1.8 grams of isoindoline, 2.5 grams of cinnamyl chloride, 4 milliliters of triethylamine and 40 milliliters of ethanol is stirred for 4 hours at room temperature. After completion of the reaction, the solvent is distilled off, after which water is added to the residue and extracted with ether. The ether layer is collected and dried followed by distilling the ether off. The so obtained oily product is converted to a hydrochloride in a customary manner and then recrystallized from methyl ethyl ketone to obtain 1.4 grams (yield 34.6%) of N-cinnamylisoindoline hydrochloride as crystals having a melting point of 180°-182° C. (decomposition).

reactant | isoindoline | 1.8 grams | C1NCC2=CC=CC=C12 | C8H9N
reactant | cinnamyl chloride | 2.5 grams | C(C=CC1=CC=CC=C1)Cl | C9H9Cl
reactant | triethylamine | 4 milliliters | C(C)N(CC)CC | C6H15N
reactant | hydrochloride | Cl | ClH
solvent | ethanol | 40 milliliters | C(C)O | C2H6O
product | N-cinnamylisoindoline hydrochloride | 1.4 grams, yield 34.6% | Cl.C(C=CC1=CC=CC=C1)N1CC2=CC=CC=C2C1 | InChI=1S/C17H17N.ClH/c1-2-7-15(8-3-1)9-6-12-18-13-16-10-4-5-11-17(16)14-18;/h1-11H,12-14H2;1H
